US08349880B2
Step AE (1): NaHMDS (1.0 M in THF, 200 mL, 200 mmol) was added to a stirred solution of 2-(4-fluorophenyl)acetic acid (15.41 g, 100 mmol) in THF (200 mL) at 0° C. The resulting mixture was aged for 20 min at 0° C. and neat 1-chloro-4-iodobutane (21.85 g, 100 mmol) was added. The mixture was allowed to warm to rt. After 16 hr, the reaction was quenched with water (3 mL). The crude mixture was concentrated in vacuo. Aqueous NaOH (1 M, 150 mL) was added to the residue and the resulting mixture was extracted with Et2O (2×250 mL). The basic layer was acidified with aqueous HCl (1 M, 200 mL) and the resulting solution was extracted with Et2O (2×250 mL). The combined organic layers from the acidic extraction were washed with mixture of brine/1N HCl/sodium sulfite, dried (MgSO4), filtered, and concentrated in vacuo to afford 6-chloro-2-(4-fluorophenyl)hexanoic acid (22.8 g, 84 mmol, 84% yield) as a viscous oil that slowly solidified upon standing to provide a light brown solid. LC-MS (M−H)− 243.1. 1H NMR (500 MHz, chloroform-d) δ ppm 7.29 (dd, J=8.70, 5.34 Hz, 2 H) 7.03 (t, J=8.70 Hz, 2 H) 3.56 (t, J=7.63 Hz, 1 H) 3.51 (t, J=6.56 Hz, 2 H) 2.06-2.14 (m, 1 H) 1.74-1.85 (m, 3 H) 1.33-1.51 (m, 2 H).

reactant | NaHMDS | 200 mmol, 1.0 M, 200 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-(4-fluorophenyl)acetic acid | 100 mmol, 15.41 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | 1-chloro-4-iodobutane | 100 mmol, 21.85 g | ClCCCCI | C4H8ClI
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 6-chloro-2-(4-fluorophenyl)hexanoic acid | 84 mmol, 22.8 g, 84% yield | ClCCCCC(C(=O)O)C1=CC=C(C=C1)F | C12H14ClFO2
